USRE031578
dl-Trans-4-hydroxy-3-phthalimidocyclopentene
A quantity of dl-trans-4-hydroxy-3-amino-cyclopentene is dissolved in 450 ml of tetrahydrofuran and 87 ml. (0.60 M) of triethylamine. The solution is cooled to 0° and treated dropwise with 59.6 g. (0.3 M) of o-methoxycarbonylbenzoylchloride over 50 min. The reaction is then allowed to warm to 25°. After 66 hours the reaction is partitioned between ethyl acetate and water. The ethyl acetate layer is dried over magnesium sulfate and distilled in vacuo to yield 62.4 g. of residual oil. This is chromatographed over 3 kg. of silica gel 60 eluted with 6 l. of (10-90), 2.5 l. of (15-85), and 11 l. of (20-80) acetonemethylene chloride. Two hundred fifty ml. fractions are collected. The product is found in fractions 38-61. These fractions crystallized on standing to yield 25.9 g. of dl-trans-4-hydroxy-3-phthalidocyclopentene.

reactant | trans-4-hydroxy-3-amino-cyclopentene | O[C@H]1[C@@H](C=CC1)N | C5H9NO
reactant | triethylamine | 0.60 M | C(C)N(CC)CC | C6H15N
reactant | o-methoxycarbonylbenzoylchloride | 0.3 M | COC(=O)C1=C(C(=O)Cl)C=CC=C1 | C9H7ClO3
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
product | Trans-4-hydroxy-3-phthalimidocyclopentene | O[C@H]1[C@@H](C=CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C13H11NO3
